US06596729B2
To a solution of 1.15 g of cyclopropyl carbinol in 30 mL of dry THF was added 312 mg of 98% sodium hydride. After stirring 1 h, 2.8 g of iodomethyl tributyltin (prepared as described by Seitz et al, 1983 Synthetic Commun. 13, 129) was added and the reaction mixture was stirred at room temperature for 24 h, and then poured onto water and extracted with hexanes. The extracts were washed with brine, dried and evaporated to a crude product that was purified by flash chromatography (hexanes then 30% ethyl acetate/hexanes eluents) to afford 1.03 g of tributyl (cyclopropylmethoxymethyl)tin as a colorless oil.

reactant | cyclopropyl carbinol | 1.15 g | C1(CC1)CO | C4H8O
reactant | sodium hydride | 312 mg | [H-].[Na+]
reactant | iodomethyl tributyltin | 2.8 g | IC[Sn](CCCC)(CCCC)CCCC
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tributyl (cyclopropylmethoxymethyl)tin | 1.03 g | C(CCC)[Sn](COCC1CC1)(CCCC)CCCC | InChI=1S/C5H9O.3C4H9.Sn/c1-6-4-5-2-3-5;3*1-3-4-2;/h5H,1-4H2;3*1,3-4H2,2H3;
